US03931407
b. 3-(3-Carboxy-4-hydroxyphenyl)-4,5-dihydro-2-phenylbenz[e]indole ##SPC51##
A mixture of 16.6 g. (0.063 mole) of 1-phenacyl-2-tetralone, 9.65 g. (0.063 mole) of 5-aminosalicylic acid, and 60 ml. of glacial acetic acid was heated under reflux under nitrogen for 2 hours, cooled and filtered. The collected solid was washed with acetic acid and water, dried and recrystallized from acetic acid to provide 16.3 g. (68%) of crystals, m.p. 223°-225°.

reactant | 1-phenacyl-2-tetralone | 0.063 mole | C(C(=O)C1=CC=CC=C1)C1C(CCC2=CC=CC=C12)=O | C18H16O2
reactant | 5-aminosalicylic acid | 0.063 mole | NC1=CC=C(C(C(=O)O)=C1)O | C7H7NO3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-(3-Carboxy-4-hydroxyphenyl)-4,5-dihydro-2-phenylbenz[e]indole | C(=O)(O)C=1C=C(C=CC1O)N1C(=CC=2C3=C(CCC12)C=CC=C3)C3=CC=CC=C3 | C25H19NO3
